US07459106B2
Preparation of N,N-bis(4butylphenyl)-N-(4-{2[4-(10H-phenothiazin-10-yl)phenyl]vinyl}phenyl)amine (86).
To a solution of tris(dibenzylideneacetone) dipalladium (Pd2(dba)3) (0.13 g, 0.14 mmol) and bis(diphenylphosphino)ferrocene (DPPF) (0.10 g, 0.17 mmol) in dry toluene (20 ml) under nitrogen atmosphere was added 4-[2-(4-bromophenyl)vinyl]-N, N-bis(4-butylphenyl)aniline (2.60 g, 4.83 mmol) at room temperature, and the resultant mixture was stirred for 10 min. Sodium tert-butoxide (1.3 g) and phenothiazine (0.96 g, 4.83 mmol) were then added to this solution, which was then stirred at 90° C. overnight under nitrogen. The reaction mixture was poured into water (60 ml), extracted three times with ether (100 ml×3) and dried over anhydrous magnesium sulfate. The product was purified by flash column chromatography using 2% ethyl acetate in hexane as eluant and was isolated in 60% (1.91 g) yield as a yellow solid.

reactant | 4-[2-(4-bromophenyl)vinyl]-N, N-bis(4-butylphenyl)aniline | 4.83 mmol, 2.60 g | BrC1=CC=C(C=C1)C=CC1=CC=C(N(C2=CC=C(C=C2)CCCC)C2=CC=C(C=C2)CCCC)C=C1 | C34H36BrN
reactant | Sodium tert-butoxide | 1.3 g | CC(C)([O-])C.[Na+]
reactant | phenothiazine | 4.83 mmol, 0.96 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | water | 60 ml | O | H2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone) dipalladium | 0.14 mmol, 0.13 g | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
catalyst | bis(diphenylphosphino)ferrocene | 0.17 mmol, 0.10 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | N,N-bis(4butylphenyl)-N-(4-{2[4-(10H-phenothiazin-10-yl)phenyl]vinyl}phenyl)amine | C(CCC)C1=CC=C(C=C1)N(C1=CC=C(C=C1)C=CC1=CC=C(C=C1)N1C2=CC=CC=C2SC=2C=CC=CC12)C1=CC=C(C=C1)CCCC | C46H44N2S
